US07528164B2
2-Amino-3-cyano-4-(5-methyl-pyridin-3-yl)-7-methyl-4H-pyrrolo[2,3-h]chromene
To a solution of 5-methyl-pyridine-3-carbaldehyde (121 mg, 1 mmol) and 4-hydroxy-1-methyl-indole (146 mg, 0.99 mmol) in absolute ethanol (5 mL) at 0° C., was added malononitrile (67 mg, 1.01 mmol) and piperidine (0.1 mL). The clear solution was slowly warmed to room temperature and stirred overnight. The product was collected by vacuum filtration, washed with ethanol, and dried in vacuo as a yellow powder (269 mg, 86%). 1H NMR (CDCl3): 8.34 (d, J=2.1 Hz, 1H), 8.31 (dd, J=0.6, 2.1 Hz, 1H), 7.29 (m, 1H), 7.06 (d, J=3.0 Hz, 1H), 7.02 (dd, J=0.9, 8.4 Hz, 1H), 6.72 (d, J=8.4 Hz, 1H), 6.57 (dd, J=0.9, 3.0 Hz, 1H), 4.85 (s, 1H), 4.72 (brs, 2H), 3.77 (s, 3H), 2.27 (s, 3H).

reactant | 5-methyl-pyridine-3-carbaldehyde | 1 mmol, 121 mg | CC=1C=C(C=NC1)C=O | C7H7NO
reactant | 4-hydroxy-1-methyl-indole | 0.99 mmol, 146 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | malononitrile | 1.01 mmol, 67 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Amino-3-cyano-4-(5-methyl-pyridin-3-yl)-7-methyl-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C=1C=NC=C(C1)C)N(C=C3)C | C19H16N4O
